Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal cramping and diarrhea
 
Major Surgical or Invasive Procedure:
EGD with biopsies
Flexible sigmoidoscopy with biopsies

 
History of Present Illness:
HPI:  
___ is a ___ man with relapsed acute myeloid
leukemia currently in remission status post reinduction with
MEC/lenalidomide on protocol ___, now status post allogeneic
MRD stem cell transplant, currently day+211 on vaccine protocol
___ who presents to clinic with dry mouth, abdominal cramping
and diarrhea concerning for GVHD.

Following transplant in ___, patient had been on tacrolimus
and had tolerated decreasing doses. On ___, decision was 
made
to taper patient off completely. At that time, his only symptoms
of GVHD were minimal dry skin and dry mouth. (per chart-early
lichenoid buccal mucosal changes)
He was then seen in clinic on ___ for symptoms of worsening dry
mouth, requiring more frequent hydration. He was also having 
some
mild intermittent, dull achy stomach pain, lasting a few 
minutes,
and several loose stools per day for a week or so. He was 
started
on Budesonide 3mg TID and Dexamethasone swish/spit 10mls tid,
on/off 2wks/1wk. Since ___, he has been taking these as
prescribed. He reports that the rinse had helped a little bit,
but the next day he had increased abdominal "tightness" with
loose stools. On ___ he began having frequent diarrhea and
worsening pain. Reports 10+ small volume stools without blood or
foam. Has been increasing his PO fluid intake (gatorade) to keep
his mouth dry and stay hydrated. However, wasn't able to eat as
much food because it would cause worsening cramping several 
hours
later. No recent abx use other than prophylactic Bactrim. 

Denies any other rash, blisters, desquamation, skin tightening,
N/V, bloating, hematochezia, melena, BRBPR, itching, jaundice,
RUQ pain. Reports about 8lb weight loss in the past week. Denies
any constitutional symptoms including fevers, chills, night
sweats.

Upon arrival to the floor, patient stable and talkative with his
two daughters. 

Review of Systems:  
(+) Per HPI.
Denies headache, vision changes, rhinorrhea, congestion, sore
throat, cough, shortness of breath, chest pain, dysuria,
hematuria. 
 
PAST ONCOLOGIC HISTORY:  
___ INITIAL BMBX  AML
___ Consented to  protocol ___  INDUCTION DAUNOrubicin  (90 mg/m2)  Cytarabine  (100
mg/m2)  (RHP: +NPM1, +IDH2,+ RAD21)
___  D+14 BMBx ablated, 
___  D+26 remission, NPM1 negative
___ C1D1 HIDAC
___ admitted for fever
___ CT showed perianal abscess, drained, improved with
antibiotics
___ - C2D1 HIDAC, complicated by fevers and rash after 4 
of 6 doses attributed to possible cytarabine syndrome, all
resolved with higher dexamethasone premedication. also received
neulasta on D9
___ - C3D1 HIDAC, complicated by neutropenic fever, 
empiric antibiotics without complications or infectious source
___ - taken off of active study protocol (control arm) due
to patient preference to avoid frequent visits and tests;
consented to be followed by the study for survival/outcome data
___ - initiation of therapy for relapsed AML on trial
___
----lenalidomide 50 mg D1-10
----MEC D4-8
___ - admitted for alloHSC transplant
- Flu/Bu ablation chemotherapy ___
- Allogeneic stem cell transplant ___
- Discharged ___ - Bone marrow biopsy w/no morphologic evidence of AML,
negative NPM1 and myeloid sequencing panels
---- COMPLICATIONS: neutropenic fever, c.diff colitis, SCoN
bacteremia, ___ abscess
 
Past Medical History:
PAST MEDICAL HISTORY:
- AML as above
- C-diff infection
- Genital warts
- Hernia s/p mesh ___ years ago
 
Social History:
___
Family History:
Mother had lung cancer. Father had some type of metastatic 
cancer
extensively involving the bones. No history of any hematologic
disorders including leukemia or lymphoma. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vitals: ___ 1454 Temp: 98.3 PO BP: 104/67 HR: 87 RR: 18 O2
sat: 98% O2 delivery: RA 
Gen: sitting upright in NA
NEURO: A&Ox3.
HEENT: No conjunctival pallor. No icterus. MMM. Several buccal
mucosal lesions.  
NECK: No JVP 
LYMPH: No cervical or supraclav LAD
CV: Regular rate, regular rhythm. No MRG.   
LUNGS: No incr WOB. CTAB. No wheezes, rales, or rhonchi.  
ABD: Very mild tenderness to deep palpation in blt lower
quadrants. Soft, ND, nl bowel sounds, no HSM. No RUQ tenderness
EXT: WWP. No ___ edema. 
Rectum: no evidence of hemorrhoids or fistula. Multiple small 
SKIN: No rashes/lesions, petechiae/purpura ecchymoses.  

DISCHARGE PHYSICAL EXAM:
========================
 
Pertinent Results:
ADMISSION LABS:
===============

___ 01:52PM BLOOD WBC-9.4 RBC-4.31* Hgb-13.9 Hct-40.2 
MCV-93 MCH-32.3* MCHC-34.6 RDW-13.8 RDWSD-47.6* Plt ___
___ 01:52PM BLOOD Neuts-41.9 ___ Monos-12.3 
Eos-0.6* Baso-0.2 Im ___ AbsNeut-3.94 AbsLymp-4.21* 
AbsMono-1.16* AbsEos-0.06 AbsBaso-0.02
___ 05:45AM BLOOD ___ PTT-26.3 ___
___ 01:52PM BLOOD UreaN-9 Creat-0.9 Na-134* K-3.8 Cl-98 
HCO3-22 AnGap-14
___ 01:52PM BLOOD ALT-28 AST-23 LD(LDH)-134 AlkPhos-90 
TotBili-0.5
___ 01:52PM BLOOD Calcium-9.1 Phos-3.9 Mg-1.7
___ 01:52PM BLOOD Albumin-3.5 Calcium-9.0
___ 01:52PM BLOOD CMV VL-NOT DETECT

CT A/P WITH CONTRAST ___
Marked circumferential mural thickening and mucosal 
hyperenhancement involving the entire large bowel terminal and 
distal ileum and the antrum of the stomach.  The appearances are 
more suggestive of acute graft-versus-host disease than an 
infectious enterocolitis. 

UPPER ENDOSCOPY ___
- Grade B esophagitis in the distal esophagus
- Ulcers in the antrum (biopsy)
- Erythema in the gastro-esophageal junction (biopsy)
- Normal mucosa in the whole examined duodenum with small 
polypoid lesions (biopsy)

Surgical Pathology Report ___
Gastrointestinal mucosal biopsies, four:
1. Gastroesophageal junction:
- Cardiac mucosa with changes suggestive of mild 
graft-versus-host-disease (GVHD).
- Squamous epithelium within normal limits.
2. Stomach:
- Corpus mucosa with changes suggestive of mild GVHD.
- Immunohistochemical stains for Helicobacter and CMV are 
negative with adequate controls.
3. Duodenum:
- Duodenal mucosa with changes suggestive of minimal GVHD.
4. Descending colon and rectum:
- Colonic mucosa with changes of moderate to severe GVHD.
- Immunohistochemical stain for CMV is negative with adequate 
controls.

PET SCAN ___
IMPRESSION: 1. Diffuse colonic wall thickening, fat stranding 
and mild colonic FDG uptake are suggestive of colitis. 2. No 
suspicious lymphadenopathy. 3. Stable, non FDG avid 7 mm 
ground-glass nodule in the right lung apex dating back to at 
least ___. 4. Mild centrilobular and paraseptal emphysema. 


RUQUS ___
Ill-defined mild hyperechogenicity in segment 2 in a periportal 
location could represent graft-versus-host disease. 
Redemonstration of extensive gallbladder sludge with moderate 
distension, 
slightly increased from prior study.  No evidence of wall 
thickening, 
pericholecystic fluid, or sonographic ___ sign to suggest 
acute 
cholecystitis. 
  
MICROBIOLOGY:
=============
Blood Culture, Routine (Final ___: 
      PSEUDOMONAS PUTIDA .    FINAL SENSITIVITIES. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS PUTIDA 
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------     4 S
CEFTRIAXONE-----------    16 I
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
LEVOFLOXACIN----------     1 S
MEROPENEM-------------     2 S
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___. ___ ON ___ AT 0350. 

      GRAM NEGATIVE ROD(S).

DISCHARGE LABS:
===============
___ 12:05AM BLOOD WBC-4.4 RBC-2.42* Hgb-8.3* Hct-24.1* 
MCV-100* MCH-34.3* MCHC-34.4 RDW-22.1* RDWSD-76.3* Plt Ct-35*
___ 12:00AM BLOOD Neuts-88* Bands-1 Lymphs-8* Monos-3* 
Eos-0* Baso-0 NRBC-0.9* AbsNeut-3.03 AbsLymp-0.27* AbsMono-0.10* 
AbsEos-0.00* AbsBaso-0.00*
___ 12:05AM BLOOD Glucose-165* UreaN-18 Creat-0.7 Na-136 
K-4.3 Cl-101 HCO3-21* AnGap-14
___ 12:05AM BLOOD ALT-40 AST-15 LD(LDH)-235 AlkPhos-115 
TotBili-1.1
___ 12:05AM BLOOD Albumin-3.1* Calcium-7.8* Phos-3.1 Mg-1.6
___ 09:00AM BLOOD tacroFK-5.___RIEF HOSPITAL COURSE:
=======================
___ is a ___ man with AML s/p allogeneic MRD stem cell 
transplant who presented with signs of GI GVHD, with course 
complicated by EBV and CMV viremia, right foot cellulitis, and 
transaminitis.

ACTIVE ISSUES:
==============
#GVHD of GI tract
Patient had biopsy proven GVHD of his esophagus, stomach and 
distal colon and was treated with high dose steroids at 2mg/kg, 
tacrolimus and budesonide. Throughout his admission, his CMV 
viral load and EBV viral load turned positive and he was treated 
with Valganciclovir and Rituximab. His C dif PCR and stool 
cultures were negative. He was also started on a PPI and Vitamin 
D supplementation, and required TPN while NPO. His diarrhea 
eventually began to improve, his diet was slowly advanced and 
his steroids were weaned down. His current medications include 
prednisone 50 mg QD, tacrolimus 0.5 BID, and budesonide 3 mg 
TID.

# Elevated AST/ALT/T. bili: patient's AST/ALT/direct bili were 
elevated at times during this admission. This was likely 
multifactorial, due to medication effect with posaconazole 
therapy, his TPN, possible extraintestinal GVHD, CMV infection. 
After holding the lipids in his TPN, his transaminitis improved. 
He had a RUQ US on ___ without acute cholecystitis.

# Acute myeloid leukemia:  in complete remission. Initially with 
favorable mutational profile (normal karyotype; FLT3 negative, 
NPM1 positive, IDH2 positive, RAD21 positive, CEBPA negative). 
Relapsed AML now in remission s/p allo-SCT (___) on vaccine 
protocol ___ (decision for vaccine per Dr. ___. 
Patient was initially continued on his prophylactic bactrim, 
acyclovir (transitioned to valganciclovir after CMV +) and was 
started on antifungal prophylaxis after receiving high dose 
steroids for GVHD. Of note, he became thrombocytopenic during 
his stay (possibly related to his Bactrim and valganciclovir 
therapy), and Bactrim was switched to Atovaquone on ___.

#CMV viremia
On ___, patient had positive CMV of 2.1, with repeat of 2.2 on
___. He was started on PO valganciclovir 900mg bid on ___. CMV 
VL was monitored weekly and became undetectable on ___. After 2 
negative VLs, he was decreased to 900mg valganciclovir qd on 
___.

#EBV viremia
Patient had elevated EBV on ___. Repeat on ___ still
elevated at 1589 with ___ repeat significantly higher at 5147.
Back down to 1483 on ___. 
- ___ PET scan without any suspicious LAD
- s/p Rituximab on ___. Recheck on ___ was pending at time of 
discharge.

#R foot cellulitis
Patient with erythema of R medial ankle on ___ that rapidly 
extended into his foot and up his lower leg, concerning for 
rapidly evolving infection in the setting of immunosuppression. 
CT ___ without subcutaneous gas, drainable fluid collection or 
bony involvement and US lower extremity ___ without evidence 
clot. Started on Vancomycin, Cefepime and Clindamycin, ID was 
consulted. ___ blood culture showed Pseudomonas putida, 
sensitive to Cefepime. Per ID, cellulitis is likely 
monomicrobial infection due to pseudomonas. Vancomycin and 
Flagyl were discontinued and he remained on Cefepime from ___ - 
___. He was transitioned to ciprofloxacin 500mg BID and 
discharged to finish a ___nding on ___. His last 
positive blood culture was on ___.

# History of genital lesion: not present on admission. Had 
resolved after cryotherapy, most consistent with genital warts. 

#Thrush - patient was found to have thrush of his oral mucosa on 
___ and was treated with clotrimazole troches

#Peripheral edema
#Hypoalbuminemia
Patient had increased weight and ___ edema in the setting of 
hypoalbuminemia. Was diuresed intermittently with 40mg Lasix and 
albumin.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. LORazepam 0.5 mg PO DAILY:PRN anxiety 
3. Multivitamins 1 TAB PO DAILY 
4. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
5. Budesonide 3 mg PO TID 
6. Dexamethasone Oral Soln (0.1mg/1mL) 10 mL ORAL TID 

 
Discharge Medications:
1.  Atovaquone Suspension 1500 mg PO DAILY 
RX *atovaquone 750 mg/5 mL 10 ml by mouth once a day Refills:*0 
2.  Ciprofloxacin HCl 500 mg PO BID Duration: 6 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*5 Tablet Refills:*0 
3.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once per day Disp #*30 
Tablet Refills:*0 
4.  LOPERamide 2 mg PO QID diarrhea 
Decrease frequency if you become constipated 
RX *loperamide [Anti-Diarrheal (loperamide)] 2 mg 1 tablet by 
mouth 4 times per day Disp #*120 Tablet Refills:*0 
5.  Nicotine Patch 21 mg/day TD DAILY 
RX *nicotine 21 mg/24 hour  Once per day Disp #*30 Patch 
Refills:*0 
6.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth Twice per day Disp 
#*60 Tablet Refills:*0 
7.  Posaconazole Delayed Release Tablet 300 mg PO DAILY 
RX *posaconazole 100 mg 3 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
8.  PredniSONE 50 mg PO DAILY 
Your doctor ___ work with you to slowly decrease the dose you 
are taking 
RX *prednisone 10 mg 50 mg by mouth Take 5 tablets (50 mg) by 
mouth once per day Disp #*150 Tablet Refills:*0 
9.  Tacrolimus 0.5 mg PO QAM  
10.  Tacrolimus 0.5 mg PO QPM  
11.  ValGANCIclovir 900 mg PO DAILY 
RX *valganciclovir 450 mg 2 tablet(s) by mouth once a day Disp 
#*28 Tablet Refills:*0 
12.  Vitamin D ___ UNIT PO 1X/WEEK (WE)  
13.  Budesonide 3 mg PO TID  
14.  LORazepam 0.5 mg PO DAILY:PRN anxiety 
RX *lorazepam 0.5 mg 0.5 (One half) mg by mouth Every 8 hours as 
needed Disp #*60 Tablet Refills:*0 
15.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: GVHD of the GI tract

Secondary diagnosis:
- Cellulitis
- CMV viremia
- EBV viremia 
- Oral candidiasis
- Hypoalbuminemia
- Severe malnutrition

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a privilege taking care of you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital for abdominal cramping and 
diarrhea and were found to have graft versus host disease 
affecting your intestines.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We treated you with steroids and other medications to suppress 
your immune system so that your intestines could heal. We gave 
you nutrition through the IV while you were resting your gut and 
then slowly introduced back foods.
- While your immune system was suppressed, you had a virus that 
became reactivated in your body (called EBV). We gave you a 
medication for this called Rituximab. You also developed an 
infection from another virus called CMV. We gave you a 
medication called valgancyclovir for this.
- You developed an infection in your foot. We treated you with 
IV antibiotics for this. We transitioned you to oral antibiotics 
before you left.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments. Your doctor ___ work with you to slowly decrease 
the steroids that are treating your graft versus host disease.

We wish you the best.

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___